US08138165B2
Preparation of 2,3-diphenyl-5,6,7-trimethoxychromone.
The title compound is prepared from heating a mixture of ω-phenyl-6-hydroxy-2,3,4-trimethoxy-acetophenone (0.996 g, 3.3 mmol), benzoic anhydride (6 g, 13.3 mmol) and sodium benzoate (6.5 g, 22.5 mmol) at 180-190° C. for 6 hr according to the published procedure (Wu, E S C et al. J. Med. Chem. 1988, 32, 183-192). Similar to the preparation ω-phenylresacetophenone (Wu, E S C et al. J. Med. Chem. 1987, 30, 788-792), ω-phenyl-6-hydroxy-2,3,4-trimethoxy-acetophenone is, in turn, obtained from adding anhydrous zinc chloride to a solution of 3,4,5-trimethoxyphenol and benzyl cyanide in ethyl acetate followed by bubbling HCl into the reaction mixture at room temperature and then heating at 95-100° C. with water.

reactant | benzoic anhydride | 13.3 mmol, 6 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | sodium benzoate | 22.5 mmol, 6.5 g | C(C1=CC=CC=C1)(=O)[O-].[Na+]
reactant | 3,4,5-trimethoxyphenol | COC=1C=C(C=C(C1OC)OC)O | C9H12O4
reactant | benzyl cyanide | C(C1=CC=CC=C1)C#N | C8H7N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 2,3-diphenyl-5,6,7-trimethoxychromone | C1(=CC=CC=C1)C=1OC2=CC(=C(C(=C2C(C1C1=CC=CC=C1)=O)OC)OC)OC | C24H20O5
